US06515003B1
To a solution of 6-methylquinoxaline (2 g, 13.87 mmol) and nickel (II) chloride hexahydrate (6.6 g, 27.74 mmol) in anhydrous methanol (70 mL) was added in portions, sodium borohydride (10.5 g, 277.43 mmol) while maintaining the temperature between 0° C. and 5° C. The reaction mixture was stirred at 0° C. for 20 minutes and at room temperature for 4 hours. Removal of the solvent under reduced pressure was ensued by acidification of the residue with 2N HCl (600 mL). The mixture was stirred at room temperature for 16 hours and filtered. The green filtrate was made basic (pH 10-11) using concentrated NH4OH (150 mL) and extracted with diethylether (3×200 mL). The ethereal extracts were successively washed with water (2×300 mL), a saturated aqueous solution of NaCl (150 mL), dried over MgSO4 and filtered. Removal of the solvent under reduced pressure gave 6-methyl-1,2,3,4-tetrahydroquinoxaline as a solid (880 mg, 43%).

reactant | 6-methylquinoxaline | 13.87 mmol, 2 g | CC=1C=C2N=CC=NC2=CC1 | C9H8N2
reactant | sodium borohydride | 277.43 mmol, 10.5 g | [BH4-].[Na+]
solvent | methanol | 70 mL | CO | CH4O
catalyst | nickel (II) chloride hexahydrate | 27.74 mmol, 6.6 g | O.O.O.O.O.O.[Ni](Cl)Cl
product | 6-methyl-1,2,3,4-tetrahydroquinoxaline | 880 mg, 43% | CC=1C=C2NCCNC2=CC1 | C9H12N2
